US05086178
Treatment to a vigorously-stirred cold (-35° C.) solution of the slightly impure 1-chloromethyl-4-aza-1-azoniabicyclo [2.2.2]octane tetrafluoroborate (1.01 g, 7.28 mmol) and sodium tetrafluoroborate (0.80 g, 7.28 mmol) in dry acetonitrile (200 cm3) with neat fluorine at 10-20 mmHg (1.3-2.7 kPa) pressure until its uptake appeared to cease provided 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo [2.2.2]octane bis(tetrafluoroborate) (2.20 g, 6.51 mmol, 89%), almost pure according to elemental analysis (C, 24.4: H, 4.6: N, 7.9%. Calc. C, 23.7; H, 3.95; N, 7.9%) and n.m.r. analysis [δF (solution in D2O; ext. CF3CO2H ref.) 125.5 (br. s; FN+), -72.0 (s; BF4-) p.p.m. (a trace of F- impurity caused an absorption at -50.7 p.p.m.); δH (same soln.) 4.53 (m; 3×CH2), 4.97 (m; 3×CH2), 5.50 (s; CH2Cl) p.p.m. (residual H in D2O, 4.70 p.p.m.)](isolated by filtering the product to remove NaF then evaporating the filtrate to remove CH3CN). This bis(tetrafluoroborate) melted with decomposition at 170° C. (turning brown at about 160° C.) after recrystallisation from an acetonitrile-diethyl ether mixture; rapidly liberated iodine from potassium iodine (moist starch-iodide paper); and converted phenol in warm acetonitrile to a mixture of ortho- and parafluorophenol.

reactant | 1-chloromethyl-4-aza-1-azoniabicyclo [2.2.2]octane tetrafluoroborate | 7.28 mmol, 1.01 g | F[B-](F)(F)F.ClC[N+]12CCN(CC1)CC2
reactant | sodium tetrafluoroborate | 7.28 mmol, 0.80 g | F[B-](F)(F)F.[Na+]
reactant | fluorine | FF | F2
solvent | acetonitrile | 200 cm3 | C(C)#N | C2H3N
product | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo [2.2.2]octane bis(tetrafluoroborate) | 6.51 mmol, 2.20 g, 89% | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F | InChI=1S/C7H14ClFN2.2BF4/c8-7-10-1-4-11(9,5-2-10)6-3-10;2*2-1(3,4)5/h1-7H2;;/q+2;2*-1
